US09085555B2
B. (2S,5R)-5-(tert-Butyl-dimethyl-silanyloxymethyl)-pyrrolidine-2-carboxylic acid (3-trifluoromethoxy-phenyl)-amide
To a solution of (2S,5R)-1-benzyl-5-(tert-butyl-dimethyl-silanyloxymethyl)-pyrrolidine-2-carboxylic acid (3-trifluoromethoxy-phenyl)-amide (97 mg, 0.19 mmol) in THF (1 mL) was added Pd/C (10%, 20 mg). The solution was degassed 3 times replacing air by nitrogen and finally nitrogen by hydrogen. The reaction mixture was further stirred under hydrogen atmosphere overnight. The catalyst was removed through a pad of Celite and washed with THF. Solvent was concentrated and the crude residue was purified by preparative HPLC (Waters SunFire C18-ODB 5 μm, 19×50, 5-100% CH3CN/H2O in 17 min, 100% CH3CN for 3 min, CH3CN and H2O containing 0.1% TFA, flow: 20 mL/min) to give the desired compound. MS (LC/MS): 419 [M+H]+; tR (HPLC conditions b): 5.28 min.

reactant | (2S,5R)-1-benzyl-5-(tert-butyl-dimethyl-silanyloxymethyl)-pyrrolidine-2-carboxylic acid (3-trifluoromethoxy-phenyl)-amide | 0.19 mmol, 97 mg | FC(OC=1C=C(C=CC1)NC(=O)[C@H]1N([C@H](CC1)C(O[SiH2]C(C)(C)C)(C)C)CC1=CC=CC=C1)(F)F | C26H35F3N2O3Si
solvent | THF | 1 mL | C1CCOC1 | C4H8O
catalyst | Pd/C | 20 mg | [Pd] | Pd
product | (2S,5R)-5-(tert-Butyl-dimethyl-silanyloxymethyl)-pyrrolidine-2-carboxylic acid (3-trifluoromethoxy-phenyl)-amide | FC(OC=1C=C(C=CC1)NC(=O)[C@H]1N[C@H](CC1)C(O[SiH2]C(C)(C)C)(C)C)(F)F | C19H29F3N2O3Si
